US04675442
The methods according to the present invention starting the methyl, ethyl, or butyl esters of acrylic acid or of methacrylic acid (R2 =methyl, ethyl, butyl) are particularly preferred, since they can be carried out on a technical scale and the alcohols which are cleaved in both reactions (R2OH of IV) can be easily removed from the reaction mixture. The embodiment employing primary amines should be particularly mentioned, i.e. wherein R3 represents hydrogen. Further, R4 preferably stands for a substituent which imparts to the amine a boiling point of 80° C. or more. Further, reaction with an aminoalkyl amine, particularly with dialkylaminoalkyl amines such as dimethylaminopropyl amine, or with dimethylaminoneopentyl amine inter alia is of interest, as is reaction with an aralkyl amine, and an aromatic amine such as aniline, naphthylamine, and benzylamine, as well as reaction with an alkylene diamine to form a bis-acrylamide or bis-methacrylamide.

reactant | acrylic acid | C(C=C)(=O)O | C3H4O2
reactant | methacrylic acid | C(C(=C)C)(=O)O | C4H6O2
reactant | dimethylaminopropyl amine | CN(C)CCCN | C5H14N2
reactant | dimethylaminoneopentyl amine | CN(C)NCC(C)(C)C | C7H18N2
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | naphthylamine | C=1C=CC=2C=C(C=CC2C1)N | C10H9N
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
product | bis-acrylamide | C=CC(=O)NCNC(=O)C=C | C7H10N2O2
